US06803378B2
2-{1-Hydroxy-1-(4-fluorophenyl)-methyl}-N-methyl-benzamide
Reaction of 2-bromo-N-methylbenzamide with 4-fluorobenzaldehyde as described in the preparation of Intermediate 2A gave the title material as a white solid: mp: 133-134° C. 1HNMR 400 MHz (CDCl3) δ (ppm): 2.81 (3H, d, J=5.1 Hz, NCH3), 5.89 (2H, broad s, CH and NH), 7.01 (2H, m, aromatics), 7.28-7.45 (6H, m, aromatics). Anal. Calcd for C15H14FNO2: C, 69.49; H, 5.44; N, 5.40. Found: C, 69.46; H, 5.44; N, 5.41.

reactant | 2-bromo-N-methylbenzamide | BrC1=C(C(=O)NC)C=CC=C1 | C8H8BrNO
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 2-{1-Hydroxy-1-(4-fluorophenyl)-methyl}-N-methyl-benzamide | OC(C1=CC=C(C=C1)F)C1=C(C(=O)NC)C=CC=C1 | C15H14FNO2
